US05412117
A mixture of 70 mg of N-methyl-6-cyano-2-ethyl-2-methyl-2H-1-benzopyran-4-carbothioamide, 55 mg of p-toluenesulfonyl chloride, and 5 ml of pyridine was heated at reflux for 6 hours. To the reaction mixture was added 2N hydrochloric acid, and the mixture was extracted with dichloromethane. The extract was dried over magnesium sulfate, and purified by silica gel column chromatography (AcOEt:n-hexane=1:1) and recrystallized from a mixture of ethyl acetate and n-hexane to obtain 41 mg of N-methyl-6-cyano-2-ethyl-2-methyl-2H-1-benzopyran-4-carboxamide represented by formula shown below.

reactant | N-methyl-6-cyano-2-ethyl-2-methyl-2H-1-benzopyran-4-carbothioamide | 70 mg | CNC(=S)C1=CC(OC2=C1C=C(C=C2)C#N)(C)CC | C15H16N2OS
reactant | p-toluenesulfonyl chloride | 55 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-6-cyano-2-ethyl-2-methyl-2H-1-benzopyran-4-carboxamide | 41 mg | CNC(=O)C1=CC(OC2=C1C=C(C=C2)C#N)(C)CC | C15H16N2O2
